US06169197A
1795 g of the top section liquid obtained above containing 862 g of dibutyl carbonate, 932 g of phenol and 1 g of butyl carbamate and 16.8 g of titanium tetrabutoxide were charged into a round bottom flask of capacity 5 L in which a distillation column made from glass provided with a vacuum jacket (filled Sulzer Labopacking, inner diameter 50mmφ, height of filling portion 1100 mm) was connected to an upper portion thereof. The contents in the flask were heated with a mantle heater while stirring at 300 rpm with a mechanical stirrer. When the bottom section temperature became 191° C., reflux was started. All reflux was performed for 10 minutes after starting of reflux and then distillation-out was started in a reflux ratio of 30. The starting time of distillation-out was regarded as starting of the reaction. The yield (mol %) of butyl phenyl carbonate based on charged dibutyl carbonate was analyzed by gas chromatography. The yield was 12.3% in the reaction for 30 min., 18.6% in the reaction for 60 min., 22.5% in the reaction for 90 min., 27.4% in the reaction for 120 min., and 30.0% in the reaction for 150 min. The amount of distilled-out liquid was 131 g and the distilled-out liquid contained 128 g of butanol and 3 g of phenol. The bottom section temperature was 192° C. at the starting time of distillation-out and 197° C. after 150 minutes of starting of the reaction.

reactant | dibutyl carbonate | 862 g | C(OCCCC)(OCCCC)=O | C9H18O3
reactant | phenol | 932 g | C1(=CC=CC=C1)O | C6H6O
reactant | butyl carbamate | 1 g | C(N)(OCCCC)=O | C5H11NO2
catalyst | titanium tetrabutoxide | 16.8 g | [O-]CCCC.[O-]CCCC.[O-]CCCC.[O-]CCCC.[Ti+4]
product | butyl phenyl carbonate | yield was 12.3% | C(OCCCC)(OC1=CC=CC=C1)=O | C11H14O3
